US07932271B2
(E)-3-[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylamide
In dichloromethane (6 ml) was dissolved (E)-3-[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylic acid (370 mg, 0.822 mmol). To the resulting solution were added thionyl chloride (2.00 ml) and N,N-dimethylformamide (one drop). The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated to dryness. The residue thus obtained was dissolved in dichloromethane (6 ml), followed by the addition of aqueous concentrated ammonia (2.00 ml). After stirring at room temperature for 2 hours, the reaction mixture was diluted with dichloromethane. The diluted mixture was washed with water, 0.1N hydrochloric acid and brine, dried over magnesium sulfate, and concentrated. The solid thus obtained was recrystallized from ethanol to give the title compound (250 mg, 0.558 mmol, 68%) as a white solid.

reactant | (E)-3-[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylic acid | 0.822 mmol, 370 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)/C=C/C(=O)O)C1=C(C=CC(=C1)F)F | C21H14ClF2NO4S
reactant | thionyl chloride | 2.00 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 2.00 ml | N | H3N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (E)-3-[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylamide | 0.558 mmol, 250 mg, 68% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)/C=C/C(=O)N)C1=C(C=CC(=C1)F)F | C21H15ClF2N2O3S
